Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
All allergies / adverse drug reactions previously recorded have 
been deleted
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
Coronary angiogram - ___

 
History of Present Illness:
Ms. ___ is a ___ yo F with h/o HLD, anemia, fibromyalgia,
chronic L shoulder pain, transferred from OSH for NSTEMI. She
presented to ___ with back and chest pain, ___. 
The
pain started at rest at 1300 on day of presentation, and 
radiated
to her shoulders. Also endorsed headache at that time. In 
___ vitals were T 99.1, HR 76, RR 20, BP 169/67
There she had trops elevated to 3.8. CT head and CTA were
negative for hemorrage and PE respectively. Given asa, nitro
sublingual, and started on heparin drip.

She was then transferred to ___ ___, where she endorsed mild 
shortness of
breath, ___ substernal radiating to right shoulder. EKG showed
ST elevations V2-V4. She was started on nitro drip and taken to
cath lab. 

 
Past Medical History:
Cardiac History:  
- none  
Other PMH:  
HLD, anemia, fibromyalgia, chronic L shoulder pain,  
 
Social History:
___
Family History:
No pertinent family history 
 
Physical Exam:
Admission Physical Exam:
========================

VS:  T 98.3, HR 70, BP 110/67, RR 17, O2 sat 95%
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.   
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. No appreciable JVD 
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. R radial site with 2cm 
diameter
area of erythema and warmth, mild tenderness to palpation.
SKIN: No significant lesions or rashes.   
PULSES: Distal pulses palpable and symmetric.  
 

Discharge Physical Exam:
=========================
VS:  T 98.5, BP 99 / 57, HR 81, RR:  18 O2 sat: 96 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.   
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 
 
NECK: Supple. No appreciable JVD
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or 
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No adventitious breath 
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable 
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused.R radial site non erythematous 
and not tender to palpation 
SKIN: No significant lesions or rashes.   
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
Admission Labs:
===============

___ 09:43PM BLOOD WBC-17.1* RBC-4.69 Hgb-13.7 Hct-41.1 
MCV-88 MCH-29.2 MCHC-33.3 RDW-13.5 RDWSD-43.3 Plt ___
___ 09:43PM BLOOD Neuts-78.9* Lymphs-13.0* Monos-7.0 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-13.51* AbsLymp-2.22 
AbsMono-1.20* AbsEos-0.01* AbsBaso-0.03
___ 09:43PM BLOOD Plt ___
___ 09:43PM BLOOD Glucose-142* UreaN-15 Creat-0.6 Na-137 
K-3.8 Cl-101 HCO3-22 AnGap-14
___ 09:43PM BLOOD CK(CPK)-320*
___ 09:43PM BLOOD CK-MB-44* MB Indx-13.8*

Relevant Imaging:
=================

EKG ___
Sinus rhythm
probable anterolateral infarct recent
Left anterior hemiblock/fascicular block

Cardiac Cath: ___
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 100% stenosis in the 
distal segment. Collaterals from the distal segment of the LAD 
connect to the
distal segment. The Diagonal, arising from the proximal segment, 
is a medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.

Single vessel coronary artery disease involving the apical LAD 
cutoff with faint collaterals

TTE: ___:
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
focal systolic dysfunction consistent with known CAD (see 
schematic). No LV thrombus seen. Normal right ventricular cavity 
size and function. Mild-mdoerate mitral regurgitation.

Discharge Labs:
===============

___ 07:15AM BLOOD WBC-9.7 RBC-5.09 Hgb-14.6 Hct-45.3* 
MCV-89 MCH-28.7 MCHC-32.2 RDW-14.0 RDWSD-45.4 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-108* UreaN-17 Creat-0.6 Na-140 
K-4.5 Cl-103 HCO3-23 AnGap-14
___ 04:16AM BLOOD ALT-38 AST-52* LD(LDH)-265* AlkPhos-51 
TotBili-0.4
___ 04:16AM BLOOD CK-MB-48* cTropnT-0.77*
___ 07:15AM BLOOD Calcium-9.5 Phos-3.3 Mg-2.___ yo F with h/o HLD, anemia, fibromyalgia, chronic L shoulder 
pain, transferred from OSH for NSTEMI. LAD with 100% stenosis. 
No stent placed, likely chronic given presence of collaterals. 
On aspirin/Plavix, high dose statin. Started low dose ACEI and 
beta blocker for medical management. 

#CORONARIES: Single vessel coronary artery disease involving the 
apical LAD cutoff with faint collaterals
#RHYTHM: sinus 

TRANSITIONAL ISSUES:
===================
[ ]consider uptitrating lisinopril and metoprolol as tolerated 
by BP and HR
[] ensure she is on DAPT for at least 12 months 
[] consider repeat TTE after receiving medical therapy 

============= 
#NSTEMI: 
Distal LAD with 100% stenosis. No stent placed, likely late 
presentation given Q-waves and presence of faint collaterals. 
Started on ASA 81mg (no rash appreciated throughout hospital 
course despite aspirin allergy), Plavix 75mg/day initially. TTE 
showed EF 30% with apical hypokinesis: thus aspirin discontinued 
and rivaroxaban 20 mg started. Plan for 3 months of therapy 
before discontinue rivaroxaban and continuing aspirin for 12 
months of DAPT. Lisinopril 5 mg/day and Toprol-XL 25 mg/day 
started on sequential days and well tolerated with discharge 
SBPs 90-100 mmHgs without pre-syncope. 

#leukocytosis: likely reactive iso recent NSTEMI. Downtrended 
throughout hospital course. On discharge downtrended to 9.1 

CHRONIC ISSUES:
==============
#HLD
- continued home atorvastatin 

#fibromyalgia
#chronic L shoulder pain
- held home gabapentin while inpatient. 
- continued home tramadol 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 100 mg PO TID:PRN Fibromyalgia 
2. TraMADol 50 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Clopidogrel 75 mg PO DAILY  
3.  Lisinopril 5 mg PO DAILY  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Rivaroxaban 20 mg PO DAILY With dinner  
6.  Gabapentin 100 mg PO TID:PRN Fibromyalgia  
7.  TraMADol 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
===================
NSTEMI
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
DISCHARGE INSTRUCTIONS  
======================  
Dear ___,  

WHY WERE YOU ADMITTED TO THE HOSPITAL?  
You were admitted because you were having chest pain
 
 WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
 When you were transferred to ___,  you had a catheterization 
imaging study of your heart arteries which showed a blockage of 
one of your arteries in your heart. There was no stent placed 
given you there was already good collateral flow. You were 
started on medications to ___ optimize your heart function.
 
 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Take all of your medications as prescribed (listed below)  
 - Follow up with your doctors as listed below  
 - Your weight at discharge is 133.38 lb. Weigh yourself every 
morning, seek medical attention if your weight goes up more than 
3 lbs.  
 - Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- If you are experiencing new chest pain please call the 
heartline at ___

 Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___!  
 We wish you all the ___!  
 - Your ___ Care Team  

 
Followup Instructions:
___